US04837392
Starting from 5.01 g (10.7 mmol) of tris(4-trifluoromethylphenyl)phosphine and 3.22 g (22.7 mmol, 2.11 eq) of methyl iodide, 5.82 g (9.57 mmol, 89.4%) of methyltris(4-trifluoromethylphenyl)phosphonium iodide was obtained: mp>250°.

reactant | tris(4-trifluoromethylphenyl)phosphine | 10.7 mmol, 5.01 g | FC(C1=CC=C(C=C1)P(C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)(F)F | C21H12F9P
reactant | methyl iodide | 22.7 mmol, 3.22 g, 2.11 eq | CI | CH3I
product | methyltris(4-trifluoromethylphenyl)phosphonium iodide | 9.57 mmol, 5.82 g, 89.4% | [I-].C[P+](C1=CC=C(C=C1)C(F)(F)F)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C22H15F9P.HI/c1-32(17-8-2-14(3-9-17)20(23,24)25,18-10-4-15(5-11-18)21(26,27)28)19-12-6-16(7-13-19)22(29,30)31;/h2-13H,1H3;1H/q+1;/p-1
